US05587487
TO a solution of 23.2 g of compound B), 2,3,4,5-tetraiodopyrrol-1-acetic acid ethyl ester (35.32 mmol) , in 840 mL of a dioxane (750 mL) / H2O (90 mL) mixture, 36 mL of 1M NaOH (36 mmol) are quickly added (10 min) and the final solution is kept at room temperature for 4 h. The reaction mixture is treated with carbon Carbopuron 4N, filtered, then acidified with 37% HC1 (w/w) and diluted in 500 1 of H2O, to give a solid which is filtered and purified by chromatography (silica gel (product E. Merck item 9385): eluent: CHCl3 : MeOH : 25% NH4OH (w/w) =7.5:2:0.3 (v/v/v)). Fractions with similar purity are collected, evaporated and diluted with 200 mL of H2O. By acidifying the aqueous phase with 40 mL of 1M HCl , a solid precipitates, which is filtered, washed with H2O and dried under reduced pressure. 21.5 g of 2,3,4,5-tetraiodopyrrol-1-acetic acid(34.20 mmol) are obtained.

reactant | 2,3,4,5-tetraiodopyrrol-1-acetic acid ethyl ester | 35.32 mmol | C(C)OC(CN1C(=C(C(=C1I)I)I)I)=O | C8H7I4NO2
reactant | H2O | 90 mL | O | H2O
reactant | NaOH | 36 mmol, 1M, 36 mL | [OH-].[Na+]
solvent | dioxane | 840 mL | O1CCOCC1 | C4H8O2
product | 2,3,4,5-tetraiodopyrrol-1-acetic acid | 34.20 mmol, 21.5 g, Yield: 95% | IC=1N(C(=C(C1I)I)I)CC(=O)O | C6H3I4NO2
